US07982071B2
Addition of acetonitrile to 3-pentyloxybenzaldehyde gave 3-hydroxy-3-(3-pentyloxyphenyl)propionitrile as a yellow oil. Yield (1.11 g, 67%): 1H NMR (400 MHz, CDCl3) δ 7.30 (d, J=7.6 Hz, 1H), 6.92-6.98 (m, 2H), 6.87 (d, J=7.6 Hz, 1H), 5.02 (m, 1H), 3.98 (t, J=6.4 Hz, 2H), 2.76 (d, J=6.0 Hz, 2H), 1.75-1.83 (m, 2H), 1.32-1.49 (m, 4H), 0.92 (t, J=6.8 Hz, 3H).

reactant | 3-pentyloxybenzaldehyde | C(CCCC)OC=1C=C(C=O)C=CC1 | C12H16O2
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-hydroxy-3-(3-pentyloxyphenyl)propionitrile | OC(CC#N)C1=CC(=CC=C1)OCCCCC | C14H19NO2
